US05488055
A mixture of N-(1-ethylpyrazole-5-yl)-5-acetamido anthranilic acid (2 g) and POCl3 (20 ml) was refluxed overnight. The reaction mixture was poured into ice-water (400 ml), neutralized with NH4OH and extracted with CH2Cl2 (3×100 ml). The CH2Cl2 layers were combined and concentrated in vacuo and the residue was purified by column chromatography on silica gel eluting with ethyl acetate to afford 0.2 g of 1-ethyl-4-chloro-6-acetamido-1H-pyrazolo[3,4-b]quinoline.

reactant | N-(1-ethylpyrazole-5-yl)-5-acetamido anthranilic acid | 2 g | C(C)N1N=CC=C1NC=1C(C(=O)O)=CC(=CC1)NC(C)=O | C14H16N4O3
reactant | POCl3 | 20 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NH4OH | [NH4+].[OH-]
product | 1-ethyl-4-chloro-6-acetamido-1H-pyrazolo[3,4-b]quinoline | 0.2 g | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2Cl)NC(C)=O | C14H13ClN4O
